US09255100B2
[4-fluoro-2-(hydroxymethyl)phenyl]boronic acid
To a solution of 2.60 g (7.97 mmol) (4-fluoro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid which was prepared according to intermediate example 299b in 10 mL dichloromethane were added 6.14 mL trifluoroacetic acid and the mixture was stirred for 16 hours at 23° C. The solvent was removed and the residue crystallized from n-hexane to give 682 mg (50%) of the title compound.

reactant | (4-fluoro-2-{[(triisopropylsilyl)oxy]methyl}phenyl)boronic acid | 7.97 mmol, 2.60 g | FC1=CC(=C(C=C1)B(O)O)CO[Si](C(C)C)(C(C)C)C(C)C | C16H28BFO3Si
reactant | trifluoroacetic acid | 6.14 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | [4-fluoro-2-(hydroxymethyl)phenyl]boronic acid | 682 mg, 50% | FC1=CC(=C(C=C1)B(O)O)CO | C7H8BFO3
